US08217069B2
To a suspension of 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene (2.04 g) in tetrahydrofuran (10 mL) were added 4-ethoxy-4-oxobutylzinc bromide (0.5 mol/L tetrahydrofuran solution, 12 mL) and tetrakis(triphenylphosphine)palladium(0) (0.2 g), and the mixture was stirred at room temperature under an argon atmosphere overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−3/2) to give ethyl 4-[5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitro-phenyl]butyrate (0.72 g). This material was dissolved in tetrahydrofuran (5 mL). To the solution were added methanol (5 mL) and nickel(II) bromide (11 mg). To the mixture was added sodium borohydride (0.12 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−3/2) to give the title compound (0.41 g).

reactant | 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene | 2.04 g | BrC1=CC(=C(C=C1OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-])Cl | C14H9BrClF2NO4
reactant | 4-ethoxy-4-oxobutylzinc bromide | 0.5 mol/L, 12 mL | [Br-].C(C)OC(CCC[Zn+])=O
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4-[5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitro-phenyl]butyrate | 0.72 g | ClC=1C(=CC(=C(C1)CCCC(=O)OCC)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C20H20ClF2NO6
